US04022794
Step A-3. Preparation of 1-Amino-2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]ethane
This compound is prepared essentially by the same method as described in Example 1, Step A-3, except that the 3-(tetrahydro-2H-pyran-2-yloxy)caprylonitrile is replaced by a 2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]acetonitrile. This process yields the title compound as a pale yellow oil.

reactant | 3-(tetrahydro-2H-pyran-2-yloxy)caprylonitrile | O1C(CCCC1)OC(CC#N)CCCCC | C13H23NO2
reactant | 2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]acetonitrile | O1C(CCCC1)OC1(CCCCC1)CC#N | C13H21NO2
product | 1-Amino-2-[1-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]ethane | NCCC1(CCCCC1)OC1OCCCC1 | C13H25NO2
